US09353070B2
2-bromo-2,2-difluoro-1-pyrrolidine-1-yl-ethanone
Pyrrolidine (7.7 g, 108 mmol) was added to ethyl bromodifluoroacetate (20.2 g, 100 mmol) at 30° C. The mixture was stirred for 60 min; then all volatiles were removed under reduced pressure and the residue (24.0 g, >90% purity by NMR) was used in subsequent steps without further purification.

reactant | Pyrrolidine | 108 mmol, 7.7 g | N1CCCC1 | C4H9N
reactant | ethyl bromodifluoroacetate | 100 mmol, 20.2 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
product | 2-bromo-2,2-difluoro-1-pyrrolidine-1-yl-ethanone | BrC(C(=O)N1CCCC1)(F)F | C6H8BrF2NO
